US04329347
5-(4-Phenylsulfonyl-butoxy)-carbostyril
1.87 gm of 2,3-dichloro-5,6-dicyano-benzoquinone were added to a solution of 1.8 gm of 5-(4-phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril in 45 ml of dioxane, and the solution was boiled for 2.5 hours on an oil bath. The reaction mixture was then filtered while still hot, and the insoluble matter, which was formed during the reaction was washed with hot dioxane. The combined filtrates were diluted with 100 ml of chloroform and extracted several times with altogether 150 ml of 2N sodium hydroxide. After drying the chloroform extracts with sodium sulfate and filtering in the presence of activated charcoal, the filtrate was concentrated by evaporation, and ethyl acetate was added until white crystals were precipitated.

reactant | 2,3-dichloro-5,6-dicyano-benzoquinone | 1.87 gm | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 5-(4-phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril | 1.8 gm | C1(=CC=CC=C1)S(=O)(=O)CCCCOC1=C2CCC(NC2=CC=C1)=O | C19H21NO4S
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
product | 5-(4-Phenylsulfonyl-butoxy)-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC1=C2C=CC(NC2=CC=C1)=O | C19H19NO4S
